US05504244
5-(3-nitro-4-n-heptylbenzoyl)pentanoic acid (0.7 g; 2.1 mole) is stirred overnight at room temperature in a mixture of stannous chloride (1.35 g) and concentrated hydrochloric acid (1.8 ml). The reaction product is mixed with excess 1M sodium hydroxide and washed with ether. The aqueous phase is acidified to pH 5 with dilute hydrochloric acid. The precipitate is collected and recrystallized from aqueous ethanol to give 5-(3-amino-4-n-heptylbenzoyl)pentanoic acid (0.46 g) as a cream colored crystalline solid, m.p. 100°-102° C. The structure is confirmed by NMR and IR spectroscopy.

reactant | 5-(3-nitro-4-n-heptylbenzoyl)pentanoic acid | 2.1 mole, 0.7 g | [N+](=O)([O-])C=1C=C(C(=O)CCCCC(=O)O)C=CC1CCCCCCC | C19H27NO5
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | sodium hydroxide | 1M | [OH-].[Na+]
product | 5-(3-amino-4-n-heptylbenzoyl)pentanoic acid | 0.46 g | NC=1C=C(C(=O)CCCCC(=O)O)C=CC1CCCCCCC | C19H29NO3
